US08604023B2
5,7-Dichloro-3-(2-chlorophenethyl)-1-(4-methoxybenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one
7-Chloro-3-(2-chlorophenethyl)-1-(4-methoxybenzyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione (950 mg) was dissolved in toluene (20 mL) and then N,N-dimethylaniline (564 mg, 2.3 eq) was added followed by phosphorous-oxychloride (403 mg, 1.3 eq). The reaction was heated to 90° C. overnight, then cooled to room temperature and washed with ice cold water, then cold 0.5 M HCl, then cold sodium bicarbonate, then cold water, then brine, and then it was dried over sodium sulfate, and filtered through a plug of silica gel (eluting with 1:1 hexanes:EtOAc), and concentrated, and held under vacuum for 24 h. Crude product was a viscous purple oil. 1H-NMR (300 MHz, CDCl3) δ 7.70 (d, 1H), 7.40 (dd, 1H), 7.30-7.22 (m, 2H), 7.20-7.07 (m, 2H), 7.00 (d, 2H), 6.81-6.70 (m, 3H), 5.28 (d, 1H), 4.82 (d, 1H), 3.75 (s, 3H), 3.55 (t, 1H), 2.95 (s, 2H), 2.90-2.79 (m, 2H), 2.55-2.45 (m, 2H).

reactant | 7-Chloro-3-(2-chlorophenethyl)-1-(4-methoxybenzyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | 950 mg | ClC1=CC2=C(N(C(C(NC2=O)CCC2=C(C=CC=C2)Cl)=O)CC2=CC=C(C=C2)OC)C=C1 | C25H22Cl2N2O3
reactant | N,N-dimethylaniline | 564 mg, 2.3 eq | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorous-oxychloride | 403 mg, 1.3 eq | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 5,7-Dichloro-3-(2-chlorophenethyl)-1-(4-methoxybenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | ClC=1C2=C(N(C(C(N1)CCC1=C(C=CC=C1)Cl)=O)CC1=CC=C(C=C1)OC)C=CC(=C2)Cl | C25H21Cl3N2O2
